US09145413B2
a. 2-(5-Fluoropyridin-2-yl)-N-(propan-2-yl)hydrazinecarboxamide (Intermediate 8a)
Isopropyl isocyanate (0.25 mL, 2.60 mmol) was added dropwise, over 2 min, to a solution of 5-fluoro-2-hydrazinyl-pyridine (for reference procedure see WO 2010/022076, which is incorporated herein by reference in its entirety; 0.30 g, 2.36 mmol) in dry DCM (10 mL) at RT and stirred for 3 h. The solvent was evaporated and the residue triturated (diethyl ether) and filtered to give the title compound as a colourless solid (464 mg, 93%). LCMS (Method 1): Rt 1.92 min, m/z 213 [MH+].

reactant | Isopropyl isocyanate | 2.60 mmol, 0.25 mL | C(C)(C)N=C=O | C4H7NO
reactant | 5-fluoro-2-hydrazinyl-pyridine | FC=1C=CC(=NC1)NN | C5H6FN3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Fluoropyridin-2-yl)-N-(propan-2-yl)hydrazinecarboxamide | 464 mg, 93% | FC=1C=CC(=NC1)NNC(=O)NC(C)C | C9H13FN4O
